US05594021
2-ethyl-5-methylbenzo[b]thiophene was prepared in the same manner as described in Example 40A. Reaction of 5-methylbenzo[b]thiophene (3.4 mmoles, 0.50 g), t-BuLi (1.7 m, 5.1 mmoles, 3.0 ml) and ethyl iodide (6.8 mmoles, 0.54 ml) in THF (10 ml) yielded 0.58g (97%) of a light yellow liquid.

reactant | 5-methylbenzo[b]thiophene | 3.4 mmoles, 0.50 g | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | t-BuLi | 5.1 mmoles, 3.0 ml | [Li]C(C)(C)C
reactant | ethyl iodide | 6.8 mmoles, 0.54 ml | C(C)I | C2H5I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-ethyl-5-methylbenzo[b]thiophene | C(C)C1=CC2=C(S1)C=CC(=C2)C | C11H12S
